US08202858B2
(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-(4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-methyl-phenyl)-methanone
(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride from Example E70.2 (100 mg, 0.16 mmol) was dissolved in methanol (2.45 ml) and triethylamine (0.068 ml, 0.48 mmol). Acetic acid (0.05 ml) then 3,3-dimethylbutyraldehyde (0.031 ml, 0.24 mmol) were added and the mixture was stirred for 1 h at room temperature. Sodium cyanoborohydride (16 mg, 0.24 mmol) was added and the mixture was stirred for 20 h at room temperature then concentrated in vacuo. The residue was dissolved in dichloromethane, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo to yield the title compound (98 mg, 96%).

reactant | (1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCNCC3)C)C
reactant | triethylamine | 0.48 mmol, 0.068 ml | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutyraldehyde | 0.24 mmol, 0.031 ml | CC(CC=O)(C)C | C6H12O
reactant | Sodium cyanoborohydride | 0.24 mmol, 16 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 2.45 ml | CO | CH4O
solvent | Acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | (1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-(4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-methyl-phenyl)-methanone | 98 mg, 96% | C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCN(CC3)CCC(C)(C)C)C)C | C40H51N5O2
